US07332501B2
1′-{[6-Chloro-1-(2-oxo-2-piperazin-1-ylethyl)-1H-indol-3-yl]carbonyl}-3H-spiro[2-benzofuran-1,4′-piperidine]
Following the general procedure V as described hereinabove, the alkylation of 1′-[(6-chloro-1H-indol-3-yl)carbonyl]-3H-spiro[2-benzofuran-1,4′-piperidine] (the preparation of which have been described in example 69) with commercially available 4-(2-chloro-acetyl)-piperazine-1-carboxylic acid tert-butyl ester as electrophile, the title compound was obtained as a white solid after removal of the Boc protecting group under standard conditions (TFA/dichloromethane, room temperature).

reactant | 1′-[(6-chloro-1H-indol-3-yl)carbonyl]-3H-spiro[2-benzofuran-1,4′-piperidine] | ClC1=CC=C2C(=CNC2=C1)C(=O)N1CCC2(CC1)OCC1=C2C=CC=C1 | C21H19ClN2O2
reactant | 4-(2-chloro-acetyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C(CCl)=O | C11H19ClN2O3
product | 1′-{[6-Chloro-1-(2-oxo-2-piperazin-1-ylethyl)-1H-indol-3-yl]carbonyl}-3H-spiro[2-benzofuran-1,4′-piperidine] | ClC1=CC=C2C(=CN(C2=C1)CC(N1CCNCC1)=O)C(=O)N1CCC2(CC1)OCC1=C2C=CC=C1 | C27H29ClN4O3
